US04284643
172 g of 3,4-difluoromethylenedioxytoluene, 180 g of N-bromosuccinimide and a pinch of azobisisobutyronitrile were mixed with 1,000 ml of CCl4 and the mixture was heated to the boil for 5 hours. After cooling, it was filtered, the material on the filter was rinsed with a little CCl4 and the filtrate was distilled. 3,4-Difluoromethylenedioxybenzyl bromide of boiling point 108°-111° C./15 mm Hg was obtained.

reactant | 3,4-difluoromethylenedioxytoluene | 172 g | FC=1C2=C(C=C(C1F)OCO2)C | C8H6F2O2
reactant | N-bromosuccinimide | 180 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | CCl4 | 1,000 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3,4-Difluoromethylenedioxybenzyl bromide | FC=1C2=C(C(OCO2)Br)C=CC1F | C8H5BrF2O2
